US05137653
Instead of (-)-2-ethyl-1-octanol in Example 8, 5.07 g (25.3 mmol) of (-)-2-propyl-1-decanol was used and then oxidized with potassium permanganate under the same acidic state of sulfuric acid as in Example 6 to obtain 2-propyl decanoic acid. 2.19 g (10.2 mmol) of this compound was reacted with 1.75 g (14.7 mmol) of thionyl chloride under the same conditions as in Example 8 to obtain 2.39 g of a light brown liquid of (+)-2-propyldecanoic acid chloride having a specific rotation [α]25 of +1.63.

reactant | (-)-2-ethyl-1-octanol | C(C)C(CO)CCCCCC | C10H22O
reactant | (-)-2-propyl-1-decanol | 25.3 mmol, 5.07 g | C(CC)C(CO)CCCCCCCC | C13H28O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-propyl decanoic acid | C(CC)C(C(=O)O)CCCCCCCC | C13H26O2
